US05728879
In 250 ml of N,N-dimethylformamide, 140 g of 4-methyl-4'-chlorodiphenylsulfone was dissolved, and further 77 g of thioglycolic acid and 71 g of 85% potassium hydroxide pellet were added and stirred for 6 hours at 120° C. The reaction mixture was poured into 2-propanol and filtered off to obtain a precipitate. After the precipitate obtained was dissolved in water and then the insoluble matter was filtered off, 150 ml of concentrated chloric acid and 500 g of ice were added therein. The formed white crystal was filtered off and washed with water and further recrystallized with a mixed solvent of n-hexane and ethylacetate to obtain 110 g of the intended 4-(4-methylphenylsulfonyl)phenylthio acetic acid.

reactant | 4-methyl-4'-chlorodiphenylsulfone | 140 g | CC1=CC=C(C=C1)S(=O)(=O)C2=CC=C(C=C2)Cl | C13H11ClO2S
reactant | thioglycolic acid | 77 g | C(CS)(=O)O | C2H4O2S
reactant | potassium hydroxide | 71 g | [OH-].[K+]
reactant | 2-propanol | CC(C)O | C3H8O
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-methylphenylsulfonyl)phenylthio acetic acid | 110 g | CC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)CC(=S)O | C15H14O3S2
